US05728835
4-(4-Fluorobenzoyl)-1-[2-(2-methoxyanilino)ethyl]piperidine
1-(2,2-Diethoxyethyl)-4-(4-fluorobenzoyl)piperidine (81 mg, 0.25 mmol) was dissolved in THF (3 ml) to which was subsequently added 10% hydrochloric acid (2 ml) at room temperature. After 1 hour of stirring at the same temperature, the solvent was removed by evaporation, and the resulting residue was subjected to azeotropic distillation using benzene (5 ml×4) to obtain an orange glutinous material. The thus obtained residue was dissolved in methanol (2 ml) to which were subsequently added o-anisidine (29 μl, 0.25 mmol) and sodium cyanoborohydride (11 mg, 0.166 mmol) at room temperature. After 2 hours of stirring at the same temperature, the reaction solution was mixed with saturated sodium carbonate aqueous solution (10 ml), extracted with ethyl acetate and then washed with water and saturated brine. The resulting organic layer was dried on anhydrous sodium carbonate, the solvent was removed by evaporation and then the resulting residue was purified by subjecting it to a silica gel column chromatography (ether:hexane=2:1-ether) to obtain 59 mg (66.2%) of the title compound in the form of colorless solid.

reactant | 1-(2,2-Diethoxyethyl)-4-(4-fluorobenzoyl)piperidine | 0.25 mmol, 81 mg | C(C)OC(CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)OCC | C18H26FNO3
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | o-anisidine | 0.25 mmol, 29 μl | COC=1C(=CC=CC1)N | C7H9NO
reactant | sodium cyanoborohydride | 0.166 mmol, 11 mg | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 4-(4-Fluorobenzoyl)-1-[2-(2-methoxyanilino)ethyl]piperidine | 59 mg, 66.2% | FC1=CC=C(C(=O)C2CCN(CC2)CCNC2=C(C=CC=C2)OC)C=C1 | C21H25FN2O2
